### PR TITLE
[Merged by Bors] - feat: Modular Character of a locally compact group

### PR DESCRIPTION
**Pull request by atarnoam**
Definition of the modular character map, and proof that it is a homomorphism.

---

- [x] depends on: #10383
- [x] depends on: #10401

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by atarnoam** [comment]
I have some doubts about this PR which I hope you can help in resolving: 
- How to define (and name) properly the function form of this, before the proof of it being a homomorphism. 
- Whether to add a version of the map that does not depend on the given Haar measure.
- A technical problem - `to_additive` fails on `modularCharacter`. I am not sure what to do with this.

Thanks!

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
+/-
+Copyright (c) 2024 Noam Atar. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Floris van Doorn
```
Comment (kbuzzard) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:4]: Is this right?

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean]: Nope :)

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 2]
```diff
@@ -0,0 +1,96 @@
...
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [TopologicalGroup G]
+  [MeasurableSpace G] [BorelSpace G] [LocallyCompactSpace G]
+
+open Classical
+
+/-- Definition of the modularCharacter map -/
+@[to_additive addModularCharacter_fun "Definition of the addModularCharacter map"]
+noncomputable def modularCharacter_fun (μ : Measure G) [IsHaarMeasure μ] : G → ℝ≥0 :=
+  fun g => haarScalarFactor (map (· * g) μ) μ
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:46]: I wonder if it would be better to remove the dependence on `μ` by defining the map using the arbitrary choice provided by `MeasureTheory.Measure.haar`, and then show that `map_right_mul_eq_modularCharacter_smul` holds for any Haar measure `μ`. But I'm not sure how well this would work in the situation when `G` isn't second-countable and the uniqueness results are weaker – if the answer is "it's a horrible mess" then feel free to ignore my remark!

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 3]
```diff
@@ -0,0 +1,96 @@
...
+      map (· * g) μ' = map (· * g) ((haarScalarFactor μ' μ) • μ) := by
+        rw [← isMulLeftInvariant_eq_smul_of_innerRegular]
+      _ = haarScalarFactor μ' μ • (map (· * g) μ) := by rw [Measure.map_smul_nnreal]
+      _ = haarScalarFactor μ' μ • (modularCharacter_fun μ g • μ) := by
+        rw [map_right_mul_eq_modularCharacter_smul]
+      _ = modularCharacter_fun μ g • (haarScalarFactor μ' μ • μ) := by rw [smul_algebra_smul_comm]
+      _ = modularCharacter_fun μ g • μ' := by rw [← isMulLeftInvariant_eq_smul_of_innerRegular]
+  simp [this]
+
+/-- The homomorphism modular character. -/
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:75]:
```suggestion
/-- The modular character homomorphism. -/
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 4]
```diff
@@ -0,0 +1,96 @@
...
+    (g : G) : (map (· * g) μ) = modularCharacter_fun μ g • μ :=
+  isMulLeftInvariant_eq_smul_of_innerRegular _ _
+
+@[to_additive addModularCharacter_pos]
+lemma modularCharacter_pos (μ : Measure G) [IsHaarMeasure μ] (g : G) :
+    0 < modularCharacter_fun μ g := haarScalarFactor_pos_of_isHaarMeasure _ μ
+
+/-- The modular character does not depend on the choice of the haar measure. -/
+@[to_additive addModularCharacter_eq "The additive modular character does not depend on the choice
+of the additive haar measure."]
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:59]:
```suggestion
/-- The modular character does not depend on the choice of the Haar measure. -/
@[to_additive addModularCharacter_eq "The additive modular character does not depend on the choice
of the additive Haar measure."]
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 2 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:46]: I'm not sure. @sgouezel, I know you've done work on uniqueness of Haar measures, what do you think?

Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:46]: I think this quantity should not depend on mu, so indeed one should probably remove mu from the definition, use an arbitrary choice of Haar measure, and then prove that it works for any Haar measure.

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:46]: So should all of this be under the assumption that G is second countable?

Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:46]: No, I don't think so, a locally compact group should be enough. A lemma like integral_isMulLeftInvariant_eq_smul_of_hasCompactSupport or haarScalarFactor_eq_integral_div should be enough to characterize everything, if I'm not mistaken.

**Comment by loefflerd** [comment]
@atarnoam What's the current status with the PR? 

Github doesn't always present the history in the correct order, so I'm not sure about this; but it looks like the PR didn't actually change at all between Sebastien tagging it as "awaiting author", and you removing his tag and setting it back to "awaiting review". Is it possible that you made changes to the code in a local branch on your machine, but forgot to push them to github, or something like that?

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 5]
```diff
@@ -0,0 +1,96 @@
...
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [TopologicalGroup G]
+  [MeasurableSpace G] [BorelSpace G] [LocallyCompactSpace G]
+
+open Classical
+
+/-- Definition of the modularCharacter map -/
+@[to_additive addModularCharacter_fun "Definition of the addModularCharacter map"]
+noncomputable def modularCharacter_fun (μ : Measure G) [IsHaarMeasure μ] : G → ℝ≥0 :=
+  fun g => haarScalarFactor (map (· * g) μ) μ
```
[the remark this answers is not in the document]
Comment (Komyyy) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:46]: Please refer to [the naming convention](https://github.com/leanprover-community/mathlib4/wiki/Lean-4-survival-guide-for-Lean-3-users#naming-conventions).

**Review by Komyyy — CHANGES_REQUESTED** [review]

**Comment by jcommelin** [comment]
@atarnoam Are you planning to continue working on this PR? If not, please feel free to close it, or label it with `please-adopt`.

**Comment by semorrison** [comment]
@atarnoam, it looks like the PR hasn't moved since we last pinged you. We're going to close this for now, just for the sake of cleaning up our [PR queue](https://bit.ly/3Ymuh0U). But please do feel free to either re-open the PR if you'd like to continue working on it, or come across to the [PR reviews](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/) zulip stream to ask for advice or request that we look at this again.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 2 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean]: Done :) @sgouezel @loefflerd

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+    exact isMulLeftInvariant_eq_smul_of_innerRegular _ μ
+
+@[to_additive addModularCharacter_pos]
+lemma modularCharacter_pos (μ : Measure G) [IsHaarMeasure μ] (g : G) :
+    0 < modularCharacterFun g := by
+      rw [modularCharacterFun_eq_haarScalarFactor μ _]
+      exact haarScalarFactor_pos_of_isHaarMeasure _ μ
+
+/-- The modular character homomorphism. -/
+noncomputable def modularCharacter:
```
Comment (atarnoam) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:103]: I couldn't add `to_additive` here because I think he tries to turn the multiplication on RR to addition too? I would appreciate help with this.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 7]
```diff
@@ -0,0 +1,125 @@
...
+open scoped NNReal
+
+namespace MeasureTheory
+
+namespace Measure
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [IsTopologicalGroup G]
+  [MeasurableSpace G] [BorelSpace G] [LocallyCompactSpace G]
+
+open Classical
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:40]: You should never do this globally: only do `open scoped Classical in` before definitions or lemmas that need it in the statement (if it's just for a proof, start the proof with `classical` instead)

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 8]
```diff
@@ -0,0 +1,125 @@
...
+μ (· * g) / μ, where μ is an (inner regular) Haar measure. This file defines this character, called
+the modular character, and shows that it is multiplicative and independent of the chosen Haar
+measure.
+TODO: Show that the character is continuous.
+
+## Main Declarations
+
+* `modularCharacter_fun`: Given a measure μ, define the modular character associated with this
+  measure, using the (noncomputable) `haarScalarFactor`. The result that this does not depend on the
+  measure chosen (as long as it is inner regular) is `modularCharacter_fun_eq`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:26]: This does not correspond to the content of the file any more.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 9]
```diff
@@ -0,0 +1,125 @@
...
+namespace MeasureTheory
+
+namespace Measure
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [IsTopologicalGroup G]
+  [MeasurableSpace G] [BorelSpace G] [LocallyCompactSpace G]
+
+open Classical
+
+/-- Definition of the modularCharacter map -/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:42]: Could you instead explain in the docstring what this function is, i.e., what the modular character is. And also mention that you will define `modularCharacter` as a homomorphism below?

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 10]
```diff
@@ -0,0 +1,125 @@
...
+@[to_additive addModularCharacterFun "Definition of the addModularCharacter map"]
+noncomputable def modularCharacterFun : G → ℝ≥0 :=
+  fun g => haarScalarFactor (map (· * g) MeasureTheory.Measure.haar) MeasureTheory.Measure.haar
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:45]: You shouldn't assume that `G` is a Borel measurable space for the definition: the definition makes sense if `G` is a locally compact group, and you should endow `G` with its Borel structure inside the definition.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 11]
```diff
@@ -0,0 +1,125 @@
...
+
+/-- Independence of modularCharacterFun from the chosen Haar measure. -/
+@[to_additive addModularCharacterFun_eq_haarScalarFactor "Independence of modularCharacterFun from \
+the chosen Haar measure"]
+lemma modularCharacterFun_eq_haarScalarFactor (μ : Measure G) [IsHaarMeasure μ] (g : G) :
+   modularCharacterFun g = haarScalarFactor (map (· * g) μ) μ := by
+    let ν := MeasureTheory.Measure.haar (G := G)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:52]: you got the indentation wrong: 4 spaces in the statement, 2 spaces in the proof.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 12]
```diff
@@ -0,0 +1,125 @@
...
+    _ = (∫ x, f (x * g) ∂μ) / ∫ x, f x ∂μ := by rw [one_mul]
+    _ = (∫ x, f x ∂(map (· * g) μ)) / ∫ x, f x ∂μ := by
+      rw [integral_map (AEMeasurable.mul_const aemeasurable_id' _)
+      (Continuous.aestronglyMeasurable f_cont)]
+    _ = haarScalarFactor (map (· * g) μ) μ :=
+      (haarScalarFactor_eq_integral_div _ _ f_cont f_comp (int_f_ne_zero μ)).symm
+
+@[to_additive map_right_add_eq_addModularCharacterFun_smul]
+lemma map_right_mul_eq_modularCharacterFun_smul (μ : Measure G) [IsHaarMeasure μ] [InnerRegular μ]
+    (g : G) : (map (· * g) μ) = modularCharacterFun g • μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:92]:
```suggestion
    (g : G) : map (· * g) μ = modularCharacterFun g • μ := by
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 13]
```diff
@@ -0,0 +1,125 @@
...
+
+namespace Measure
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [IsTopologicalGroup G]
+  [MeasurableSpace G] [BorelSpace G] [LocallyCompactSpace G]
+
+open Classical
+
+/-- Definition of the modularCharacter map -/
+@[to_additive addModularCharacterFun "Definition of the addModularCharacter map"]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:43]: instead of specifying the name by hand in all the statements, you should say in the `toAdditive` file that is should always transform `modularCharacter`  to `addModularCharacter`

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 6 above)
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:103]:
```suggestion
noncomputable def modularCharacter :
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 10 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:45]: Could you explain how to do this?

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 14]
```diff
@@ -0,0 +1,135 @@
...
+On a locally compact group, there is a natural homomorphism `G → ℝ≥0*`, which for `g : G` gives the
+value `μ (· * g⁻¹) / μ`, where `μ` is an (inner regular) Haar measure. This file defines this
+homomorphism, called the modular character, and shows that it is independent of the chosen Haar
+measure.
+
+TODO: Show that the character is continuous.
+
+## Main Declarations
+
+* `modularCharacterFun`: Define the modular character associated with this measure, which is
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:25]:
```suggestion
* `modularCharacterFun`: Define the modular character, which is
```
(and reflow the docstring)

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 15]
```diff
@@ -0,0 +1,135 @@
...
+
+/-- The modular character as a map is `g ↦ haarScalarFactor (map (· * g) ν) ν`, where `ν` is
+  the haar measure given by (the noncomputable) `MeasureTheory.Measure.haar`.
+
+  See also `modularCharacter` that defines the map as a homomorphism. -/
+@[to_additive addModularCharacterFun "Definition of the addModularCharacterFun map as
+  `addHaarScalarFactor (map (· * g) ν) ν`, where `ν` is
+  the haar measure given by (the noncomputable) MeasureTheory.Measure.haar.
+
+  Also `modularCharacter` defines the map as a homomorphism."]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:50]: The phrasing of the additive version should match more closely the multiplicative one (and replace `*` with `+`)

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 10 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:52]: Something like
```
noncomputable def modularCharacterFun (g : G) : ℝ≥0 :=
  letI : MeasurableSpace G := borel G
  haveI : BorelSpace G := ⟨rfl⟩
  haarScalarFactor (map (· * g) MeasureTheory.Measure.haar) MeasureTheory.Measure.haar
```
should work.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 16]
```diff
@@ -0,0 +1,135 @@
...
+    (haarScalarFactor_eq_integral_div _ _ f_cont f_comp (int_f_ne_zero μ)).symm
+
+@[to_additive map_right_add_eq_addModularCharacterFun_smul]
+lemma map_right_mul_eq_modularCharacterFun_smul (μ : Measure G) [IsHaarMeasure μ] [InnerRegular μ]
+    (g : G) : map (· * g) μ = modularCharacterFun g • μ := by
+  rw [modularCharacterFun_eq_haarScalarFactor μ _]
+  exact isMulLeftInvariant_eq_smul_of_innerRegular _ μ
+
+@[to_additive addModularCharacter_pos]
+lemma modularCharacter_pos (μ : Measure G) [IsHaarMeasure μ] (g : G) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:104]: You shouldn't assume a measure here.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 17]
```diff
@@ -0,0 +1,135 @@
...
+    0 < modularCharacterFun g := by
+      rw [modularCharacterFun_eq_haarScalarFactor μ _]
+      exact haarScalarFactor_pos_of_isHaarMeasure _ μ
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:107]: indentation is wrong.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 13 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean]: Yes. Look for `fixAbbreviation` there.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 10 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:52]: It seems like it works, but then `haarScalarFactor` can't be initialized, for example in `modularCharacterFun_eq_haarScalarFactor`.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:52]: In other lemmas that mention a measure, you will need to assume `[MeasurableSpace G] [BorelSpace G]` so that the notion of measure makes sense. But in lemmas that don't mention a measure, you won't need it.

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:52]: Then I have to apply some uniqueness result about `BorelSpace`. For example now `modularCharacterFun g = haarScalarFactor (map (· * g) haar) haar` cannot be proven by `rfl`. Do you know how to do this?

Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:52]: You can prove it with `:= by borelize G; rfl`

Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:54]: Done. Thank you!

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 18]
```diff
@@ -0,0 +1,139 @@
...
+value `μ (· * g⁻¹) / μ`, where `μ` is an (inner regular) Haar measure. This file defines this
+homomorphism, called the modular character, and shows that it is independent of the chosen Haar
+measure.
+
+TODO: Show that the character is continuous.
+
+## Main Declarations
+
+* `modularCharacterFun`: Define the modular character, which is `g ↦ haarScalarFactor
+  (map (· * g) ν) ν`, where ν is the haar measure given by (the noncomputable)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:26]:
```suggestion
  (map (· * g) ν) ν`, where ν is the Haar measure given by (the noncomputable)
```
Same thing below several times.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 19]
```diff
@@ -0,0 +1,139 @@
...
+  See also `modularCharacter` that defines the map as a homomorphism. -/
+@[to_additive "The additive modular character as a map is `g ↦ haarScalarFactor
+  (map (· + g) ν) ν`, where `ν` is the additive haar measure given by (the noncomputable)
+  `MeasureTheory.Measure.haar`.
+
+  See also `modularCharacter` that defines the map as a homomorphism.."]
+noncomputable def modularCharacterFun : G → ℝ≥0 :=
+  letI : MeasurableSpace G := borel G
+  haveI : BorelSpace G := ⟨rfl⟩
+  -- Mathlib.Tactic.Borelize.borelize G
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:53]:
```suggestion
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 20]
```diff
@@ -0,0 +1,139 @@
...
+/-- The modular character as a map is `g ↦ haarScalarFactor (map (· * g) ν) ν`, where `ν` is
+  the haar measure given by (the noncomputable) `MeasureTheory.Measure.haar`.
+
+  See also `modularCharacter` that defines the map as a homomorphism. -/
+@[to_additive "The additive modular character as a map is `g ↦ haarScalarFactor
+  (map (· + g) ν) ν`, where `ν` is the additive haar measure given by (the noncomputable)
+  `MeasureTheory.Measure.haar`.
+
+  See also `modularCharacter` that defines the map as a homomorphism.."]
+noncomputable def modularCharacterFun : G → ℝ≥0 :=
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:50]:
```suggestion
noncomputable def modularCharacterFun (g : G) : ℝ≥0 :=
```
Better move everything you can left of the colon.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 21]
```diff
@@ -0,0 +1,139 @@
...
+
+/-- Independence of modularCharacterFun from the chosen Haar measure. -/
+@[to_additive "Independence of addModularCharacterFun from the chosen Haar measure"]
+lemma modularCharacterFun_eq_haarScalarFactor [MeasurableSpace G] [BorelSpace G] (μ : Measure G)
+  [IsHaarMeasure μ] (g : G) : modularCharacterFun g = haarScalarFactor (map (· * g) μ) μ := by
+  let ν := MeasureTheory.Measure.haar (G := G)
+  obtain ⟨⟨f, f_cont⟩, f_comp, f_nonneg, f_one⟩ :
+    ∃ f : C(G, ℝ), HasCompactSupport f ∧ 0 ≤ f ∧ f 1 ≠ 0 := exists_continuous_nonneg_pos 1
+  have int_f_ne_zero (μ₀ : Measure G) [IsHaarMeasure μ₀] : ∫ x, f x ∂μ₀ ≠ 0 :=
+  ne_of_gt (f_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero f_comp f_nonneg f_one)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:64]:
```suggestion
    ne_of_gt (f_cont.integral_pos_of_hasCompactSupport_nonneg_nonzero f_comp f_nonneg f_one)
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 22]
```diff
@@ -0,0 +1,139 @@
...
+  _ = (∫ x, f (x * g) ∂μ) / ∫ x, f x ∂μ := by rw [one_mul]
+  _ = (∫ x, f x ∂(map (· * g) μ)) / ∫ x, f x ∂μ := by
+    rw [integral_map (AEMeasurable.mul_const aemeasurable_id' _)
+    (Continuous.aestronglyMeasurable f_cont)]
+  _ = haarScalarFactor (map (· * g) μ) μ :=
+    (haarScalarFactor_eq_integral_div _ _ f_cont f_comp (int_f_ne_zero μ)).symm
+
+@[to_additive]
+lemma map_right_mul_eq_modularCharacterFun_smul [MeasurableSpace G] [BorelSpace G] (μ : Measure G)
+  [IsHaarMeasure μ] [InnerRegular μ] (g : G) : map (· * g) μ = modularCharacterFun g • μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:100]:
```suggestion
    [IsHaarMeasure μ] [InnerRegular μ] (g : G) : map (· * g) μ = modularCharacterFun g • μ := by
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 23]
```diff
@@ -0,0 +1,139 @@
...
+  rw [modularCharacterFun_eq_haarScalarFactor μ _]
+  exact isMulLeftInvariant_eq_smul_of_innerRegular _ μ
+
+@[to_additive]
+lemma modularCharacter_pos (g : G) : 0 < modularCharacterFun g := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:105]:
```suggestion
lemma modularCharacterFun_pos (g : G) : 0 < modularCharacterFun g := by
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 24]
```diff
@@ -0,0 +1,139 @@
...
+noncomputable def modularCharacterFun : G → ℝ≥0 :=
+  letI : MeasurableSpace G := borel G
+  haveI : BorelSpace G := ⟨rfl⟩
+  -- Mathlib.Tactic.Borelize.borelize G
+  fun g => haarScalarFactor (map (· * g) MeasureTheory.Measure.haar) MeasureTheory.Measure.haar
+
+/-- Independence of modularCharacterFun from the chosen Haar measure. -/
+@[to_additive "Independence of addModularCharacterFun from the chosen Haar measure"]
+lemma modularCharacterFun_eq_haarScalarFactor [MeasurableSpace G] [BorelSpace G] (μ : Measure G)
+  [IsHaarMeasure μ] (g : G) : modularCharacterFun g = haarScalarFactor (map (· * g) μ) μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:59]:
```suggestion
    [IsHaarMeasure μ] (g : G) : modularCharacterFun g = haarScalarFactor (map (· * g) μ) μ := by
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 25]
```diff
@@ -0,0 +1,139 @@
...
+@[to_additive]
+lemma map_right_mul_eq_modularCharacterFun_smul [MeasurableSpace G] [BorelSpace G] (μ : Measure G)
+  [IsHaarMeasure μ] [InnerRegular μ] (g : G) : map (· * g) μ = modularCharacterFun g • μ := by
+  rw [modularCharacterFun_eq_haarScalarFactor μ _]
+  exact isMulLeftInvariant_eq_smul_of_innerRegular _ μ
+
+@[to_additive]
+lemma modularCharacter_pos (g : G) : 0 < modularCharacterFun g := by
+  letI : MeasurableSpace G := borel G
+  haveI : BorelSpace G := ⟨rfl⟩
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:107]:
```suggestion
  borelize G
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 6 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean]: [It seems like there isn't much to do about it.](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Homomorphisms.20from.20additive.20group.20to.20multiplicative)
I think for now I won't define the additive modular character, but maybe in a future PR.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 26]
```diff
@@ -0,0 +1,145 @@
...
+measure.
+
+TODO: Show that the character is continuous.
+
+## Main Declarations
+
+* `modularCharacterFun`: Define the modular character, which is `g ↦ haarScalarFactor
+  (map (· * g) ν) ν`, where ν is the Haar measure given by (the noncomputable)
+  `MeasureTheory.Measure.haar`. The result that this does not depend on the measure chosen is
+  `modularCharacterFun_eq_haarScalarFactor`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:28]: What you're describing here is the technical implementation of the function, but that's not really relevant for a user. Something like: "the amount by which right multiplication by `g` rescales the Haar measure" (or should it be `g⁻¹`?) is more informative. Same thing elsewhere in this file, above and below.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 27]
```diff
@@ -0,0 +1,142 @@
...
+namespace MeasureTheory
+
+namespace Measure
+
+variable {G : Type*} [TopologicalSpace G] [Group G] [IsTopologicalGroup G] [LocallyCompactSpace G]
+
+/-- The modular character as a map is `g ↦ μ (· * g⁻¹) / μ`, where `μ` is a left Haar measure.
+
+  See also `modularCharacter` that defines the map as a homomorphism. -/
+@[to_additive "The additive modular character as a map is `g ↦ μ (· + -g) / μ`, where `μ` is an
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:44]:
```suggestion
@[to_additive "The additive modular character as a map is `g ↦ μ (· - g) / μ`, where `μ` is a
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 28]
```diff
@@ -0,0 +1,142 @@
...
+  left additive Haar measure.
+
+  See also `modularCharacter` that defines the map as a multiplicative homomorphism.."]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:47]:
```suggestion
  See also `addModularCharacter` that defines the map as an additive homomorphism.."]
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 29]
```diff
@@ -0,0 +1,142 @@
...
+@[to_additive]
+lemma modularCharacterFun_pos (g : G) : 0 < modularCharacterFun g := by
+  borelize G
+  rw [modularCharacterFun_eq_haarScalarFactor MeasureTheory.Measure.haar g]
+  exact haarScalarFactor_pos_of_isHaarMeasure _ _
+
+@[to_additive]
+lemma modularCharacterFun_map_one' : modularCharacterFun (1 : G) = 1 := by
+  simp [modularCharacterFun, haarScalarFactor_self]
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:110]:
```suggestion
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 30]
```diff
@@ -0,0 +1,142 @@
...
+  exact isMulLeftInvariant_eq_smul_of_innerRegular _ μ
+
+@[to_additive]
+lemma modularCharacterFun_pos (g : G) : 0 < modularCharacterFun g := by
+  borelize G
+  rw [modularCharacterFun_eq_haarScalarFactor MeasureTheory.Measure.haar g]
+  exact haarScalarFactor_pos_of_isHaarMeasure _ _
+
+@[to_additive]
+lemma modularCharacterFun_map_one' : modularCharacterFun (1 : G) = 1 := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:108]:
```suggestion
lemma modularCharacterFun_map_one : modularCharacterFun (1 : G) = 1 := by
```
Why did you put a prime here?

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 31]
```diff
@@ -0,0 +1,142 @@
...
+  simp [modularCharacterFun, haarScalarFactor_self]
+
+
+@[to_additive]
+lemma modularCharacterFun_map_mul' (g h : G) : modularCharacterFun (g * h) =
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:113]:
```suggestion
lemma modularCharacterFun_map_mul (g h : G) : modularCharacterFun (g * h) =
```
ditto

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean [hunk 32]
```diff
@@ -0,0 +1,142 @@
...
+    modularCharacterFun g * modularCharacterFun h =
+      modularCharacterFun h * modularCharacterFun g := mul_comm _ _
+    _ = haarScalarFactor (map (· * h) (map (· * g) ν)) (map (· * g) ν) *
+      modularCharacterFun g := by
+      rw [modularCharacterFun_eq_haarScalarFactor (map (· * g) ν) _]
+    _ = haarScalarFactor (map (· * h) (map (· * g) ν)) (map (· * g) ν) *
+      haarScalarFactor (map (· * g) ν) ν := rfl
+    _ = haarScalarFactor (map (· * (g * h)) ν) ν := by simp only [map_map mul_h_meas mul_g_meas,
+      comp_mul_right, ← haarScalarFactor_eq_mul]
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/ModularCharacter.lean:130]:
```suggestion
```

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 30 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean]: To match with `map_one'` of the homomorphism definition.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 28 above)
Comment (atarnoam) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:47]: I wrote this because I couldn't define `addModularCharacter` without using something like `Multiplicative G \to ℝ≥0` (and in this case `to_additive` wouldn't recognize it), so I just left only `modularCharacter`.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean:47]: Ah, yes. Then just remove the sentence.

File: Mathlib/MeasureTheory/Group/ModularCharacter.lean (hunk 30 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/ModularCharacter.lean]: The prime in the homorphism definition is just to leave the room for `MonoidHom.map_one`. Here you don't have this issue, so the prime is definitely not needed.

**Comment by sgouezel** [comment]
bors r+
Thanks a lot for this (and thanks for bearing with all my comments)!
